US07964608B2
4-Chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester (265 mg, 1.0 mmol) was treated with C-(tetrahydro-pyran-4-yl)-methylamine (1.5 mmol) following general procedure B to afford 8-methoxy-4-[(tetrahydro-pyran-4-ylmethyl)-amino]-quinoline-3-carboxylic acid ethyl ester (324 mg). 3-Ethyl-7-methoxy-1-(tetrahydro-pyran-4-ylmethyl)-1H-pyrimido[5,4-c]quinoline-2,4-dione (19 mg) was prepared from 8-methoxy-4-[(tetrahydro-pyran-4-ylmethyl)-amino]-quinoline-3-carboxylic acid ethyl ester (0.10 mmol) and ethyl isocyanate (0.4 mmol) following general procedure C. LCMS: m/z 370 [M+1]+.

reactant | 8-methoxy-4-[(tetrahydro-pyran-4-ylmethyl)-amino]-quinoline-3-carboxylic acid ethyl ester | 0.10 mmol | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NCC1CCOCC1)OC | C19H24N2O4
reactant | ethyl isocyanate | 0.4 mmol | C(C)N=C=O | C3H5NO
product | 3-Ethyl-7-methoxy-1-(tetrahydro-pyran-4-ylmethyl)-1H-pyrimido[5,4-c]quinoline-2,4-dione | 19 mg | C(C)N1C(N(C2=C(C=NC=3C(=CC=CC23)OC)C1=O)CC1CCOCC1)=O | C20H23N3O4
